US04714764
(a) Preparation of 2- chloromethyl-5,6-dichlorobenzimidazole
A solution of 1.77 g (10 m mol) of 4,5-dichloro-1,2-phenylenediamine in 15 ml of 4N aqueous hydrochloric acid was stored at room temperature overnight. To the solution was added 1.42 g (15 m mol) of monochloroacetic acid, and refluxed for 3 hours and filtered. The filterate was cooled to room temperature, stirred and rendered alkaline by addition of ammonium hydroxide. The separated precipitate was washed with water and dried to give 1.9 g (68%) of the title compound.

reactant | 4,5-dichloro-1,2-phenylenediamine | 1.77 g | ClC1=CC(=C(C=C1Cl)N)N | C6H6Cl2N2
reactant | monochloroacetic acid | 1.42 g | ClCC(=O)O | C2H3ClO2
solvent | hydrochloric acid | 4N, 15 ml | Cl | ClH
product | 2- chloromethyl-5,6-dichlorobenzimidazole | 1.9 g, 68% | ClCC=1NC2=C(N1)C=C(C(=C2)Cl)Cl | C8H5Cl3N2
